US08119655B2
Compound 39: 5-[3-(ethylsulfonyl)phenyl]-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo [2,3-b]pyridin-8-one
In an appropriate microwave reaction vessel was placed, 5-iodo-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo [2,3-b]pyridin-8-one (8.0 g, 17.967 mmol), 3-(ethylsulfonyl)phenyl boronic acid (4.62 g, 21.562 mmol), and Tetrakis(triphenylphosphine)Pd(0) (6.23 g, 5.390 mmol). The solids were then suspended in a dioxane/saturated K2CO3 solution (40.0 mL, 4/1) and the mixture was heated in a large scale CEM microwave for 20 minutes at 150° C. The reaction mixture was diluted with DCM (400 mL), then filtered off undissolved solids. The organic layer was washed with brine (300 mL), dried with MgSO4, filtered and concentrated in vacuo affording an orange solid. The crude solid was washed with a hot ethyl acetate/hexanes solution (400 ml, 1/1) followed by a hot ethanol/DCM solution (400 mL, 4/1). The product was isolated by filtration, washed with ether and dried under vacuum affording an off-white solid. (6.83 g, 78%) 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.36 (t, J=7.45 Hz, 3 H) 2.44 (s, 3 H) 3.20 (q, J=7.33 Hz, 2 H) 3.80 (s, 3 H) 5.37 (s, 2 H) 6.90 (d, J=8.59 Hz, 2 H) 7.16 (s, 1 H) 7.37 (d, J=8.59 Hz, 3 H) 7.75 (t, J=7.71 Hz, 1 H) 7.78-7.87 (m, 2 H) 8.03 (d, J=7.58 Hz, 1 H) 8.12 (s, 1 H) 8.43 (s, 1 H). ESI-MS: m/z 488.3 (M+H)+.

reactant | 5-iodo-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo [2,3-b]pyridin-8-one | 17.967 mmol, 8.0 g | IC1=CN(C(C2=C1C=1C(=NC=C(C1)C)N2)=O)CC2=CC=C(C=C2)OC | C19H16IN3O2
reactant | 3-(ethylsulfonyl)phenyl boronic acid | 21.562 mmol, 4.62 g | C(C)S(=O)(=O)C=1C=C(C=CC1)B(O)O | C8H11BO4S
reactant | dioxane | 40.0 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | 5-[3-(ethylsulfonyl)phenyl]-7-(4-methoxybenzyl)-3-methyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo [2,3-b]pyridin-8-one | C(C)S(=O)(=O)C=1C=C(C=CC1)C1=CN(C(C2=C1C=1C(=NC=C(C1)C)N2)=O)CC2=CC=C(C=C2)OC | C27H25N3O4S
